US07700641B2
A. Synthesis of 1-[3-(benzyloxy)propyl]-1H-indole-2,3-dione
Following the procedure as described in PREPARATION 1A, and making non-critical variations to replace 4-bromoindole with isatin, and 1-bromopentane with benzyl 3-bromopropyl ether, the title compound was obtained (95%) as a pale yellow syrup: 1H NMR (300 MHz, CDCl3) δ 7.57-6.92 (m, 9H), 4.50 (s, 2H), 3.84 (t, 2H), 3.54 (t, 2H), 2.03-1.94 (m, 2H); MS (ES+) m/z 296.3 (M+1), 318.3 (M+23).

reactant | 4-bromoindole | BrC1=C2C=CNC2=CC=C1 | C8H6BrN
reactant | isatin | N1C(=O)C(=O)C2=CC=CC=C12 | C8H5NO2
reactant | 1-bromopentane | BrCCCCC | C5H11Br
reactant | benzyl 3-bromopropyl ether | BrCCCOCC1=CC=CC=C1 | C10H13BrO
product | 1-[3-(benzyloxy)propyl]-1H-indole-2,3-dione | C(C1=CC=CC=C1)OCCCN1C(C(C2=CC=CC=C12)=O)=O | C18H17NO3
